US20010023257A1
b) octahydro-4,7-methanoinden-5-ylamine
2.2 g of 1,3a,4,6,7,7a-hexahydro-4,7-methanoinden-5-one oxime were dissolved in 50 ml of methanol, and about 10% Raney nickel, dissolved in 50% water, was added. The mixture was hydrogenated at 100 bar and 100° C. for 20 hours, the catalyst was then filtered off, and the solvent was evaporated under reduced pressure. The residue was taken up in ether and 6 N aqueous sodium hydroxide solution, the phases were separated, the aqueous phase was extracted three times with ether, the combined organic phases were dried with magnesium sulfate and filtered, and the filtrate was concentrated. This gave 1.8 g of a colorless oil which was purified by kugelrohr distillation. This gave 0.96 g of the desired amine as an oil.

reactant | 1,3a,4,6,7,7a-hexahydro-4,7-methanoinden-5-one oxime | 2.2 g | C1C=CC2C3C(CC(C12)C3)=NO | C10H13NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | octahydro-4,7-methanoinden-5-ylamine | C1CCC2C3C(CC(C12)C3)N | C10H17N
